US04435208
100 g of 5-(2-chloro-4-trifluoromethyl-phenoxy)-2-nitrobenzyl alcohol were dissolved in 370 ml of nitromethane. A mixture of 86.4 g of 65% strength nitric acid and 43.2 g of water was then added dropwise in the course of 90 minutes to this solution, at 60° to 65° C., and the mixture was stirred for 8 hours at 60° to 65° C. It was then diluted with 4 liters of water, and the product was filtered off. 50.2 g (50% of theory) of 5-(2-chloro-4-trifluoromethyl-phenoxy)-2-nitro-benzaldehyde, of melting point 95° C., were obtained.

reactant | 5-(2-chloro-4-trifluoromethyl-phenoxy)-2-nitrobenzyl alcohol | 100 g | ClC1=C(OC=2C=CC(=C(CO)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C14H9ClF3NO4
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | nitromethane | 370 ml | [N+](=O)([O-])C | CH3NO2
solvent | water | 4 liters | O | H2O
solvent | water | 43.2 g | O | H2O
product | 5-(2-chloro-4-trifluoromethyl-phenoxy)-2-nitro-benzaldehyde | 50.2 g, 50% | ClC1=C(OC=2C=CC(=C(C=O)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C14H7ClF3NO4
